US06034099
From the reaction of 3-hydrazinobenzenesulfonic acid and ethylbutyrylacetate, 3-(4,5-Dihydro-5-oxo-3-propyl-1H-pyrazol-1-yl)-benzenesulfonic acid is obtained. Subsequent reaction with 2-ethylaniline yields 3-(4-(2-ethylanilinomethylene)-4,5-dihydro-5-oxo-3-propyl-1H-pyrazol-1-y 1)-benzenesulfonic acid, Mp 258.6° C.

reactant | 3-hydrazinobenzenesulfonic acid | N(N)C=1C=C(C=CC1)S(=O)(=O)O | C6H8N2O3S
reactant | ethylbutyrylacetate | C(C)CCCC(=O)CC(=O)[O-]
product | 3-(4,5-Dihydro-5-oxo-3-propyl-1H-pyrazol-1-yl)-benzenesulfonic acid | O=C1CC(=NN1C=1C=C(C=CC1)S(=O)(=O)O)CCC | C12H14N2O4S
